US05206372
3-Dimethylaminoacrolein (25 g, 0.25 mol) and cyanoacetic acid N,N-dimethylamide (28 g, 0.25 mol) were dissolved in toluene (250 ml) and piperidine (1 ml) and acetic acid (2.5 ml) were then added. The solution was heated under reflux in a water separator until no more water was formed (about 2 hours). The solution was then filtered and reduced to about 100 ml. On cooling, crystals formed which were filtered off under suction and dried to give 34 g 1-cyano-1- dimethylaminocarbonyl-4-dimethylamino-1,3-butadiene as yellow-brown crystals, m.pt. 149°-150° C.

reactant | 3-Dimethylaminoacrolein | 0.25 mol, 25 g | CN(C=CC=O)C | C5H9NO
reactant | cyanoacetic acid N,N-dimethylamide | 0.25 mol, 28 g | CN(C(CC#N)=O)C | C5H8N2O
reactant | piperidine | 1 ml | N1CCCCC1 | C5H11N
reactant | acetic acid | 2.5 ml | C(C)(=O)O | C2H4O2
solvent | toluene | 250 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | 1-cyano-1- dimethylaminocarbonyl-4-dimethylamino-1,3-butadiene | 34 g | C(#N)C(=CC=CN(C)C)C(=O)N(C)C | C10H15N3O
